US04941985
Preparation of Oleyl Acrylate
To a 500 ml round bottom flask equipped with a stirrer, condenser, water trap and thermometer, was added oleyl alcohol (100 g, 0.373 moles), acrylic acid (27 g, 0.373) moles), p-toluenesulfonic acid monohydrate (1g, 1 wt%, hydroquinone (0.2 g, 0.2 wt%) and xylene (I00 ml). The reaction mixture was heated to reflux and maintained until no more water was collected (~4 hrs). The xylene solution was then concentrated to about half of its original volume. The crude product was then washed successively with water, saturated sodium bicarbonate solution, and then again with water. The organic solution was dried over sodium sulfate, filtered and the solvent evaporated under reduced pressure. The product was stabilized by 0.01 wt% of MEHQ. The yield was 80%.

reactant | oleyl alcohol | 0.373 moles, 100 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | acrylic acid | 27 g | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydroquinone | 0.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | O | H2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Oleyl Acrylate | yield was 80% | C(C=C)(=O)OCCCCCCCC\C=C/CCCCCCCC | C21H38O2
